US09388149B2
A mixture of 1.82 g (16.5 mmol, 1 eq) of 3-aminopyridin-2-ol and 3.6 ml (24.8 mmol, 1.5 eq) of 3,4-diethoxycyclobut-3-ene-1,2-dione (3.6 ml, 24.8 mmol) in solution in 87 ml of ethanol was stirred at ambient temperature for 16 hours and then heated at 50° C. for 3 days with formation of a precipitate. Ethanol was added in order to promote the fall of the precipitate, which was filtered off, washed with diethyl ether and dried under vacuum at 45° C. 3.47 g of 3-ethoxy-4-(2-hydroxypyridin-3-ylamino)cyclobut-3-ene-1,2-dione were obtained in the form of a brown solid. Yield=90%.

reactant | 3-aminopyridin-2-ol | 16.5 mmol, 1.82 g, 1 eq | NC=1C(=NC=CC1)O | C5H6N2O
reactant | 3,4-diethoxycyclobut-3-ene-1,2-dione | 24.8 mmol, 3.6 ml, 1.5 eq | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | ethanol | 87 ml | C(C)O | C2H6O
product | 3-ethoxy-4-(2-hydroxypyridin-3-ylamino)cyclobut-3-ene-1,2-dione | 3.47 g, Yield=90% | C(C)OC=1C(C(C1NC=1C(=NC=CC1)O)=O)=O | C11H10N2O4
